US04379765
4-(2-benzoyl-4-chlorophenyl)-3-cyano-5-methylpyrazole
A solution of diazoethane in 400 ml of ether (prepared from 16.1 g (0.1 mol) of N-ethyl-N'-nitro-N-nitrosoimino urea,) was added to a solution of 15 g (0.056 mol) of crude 3-(2-benzoyl-4-chlorophenyl)-2-propenonitrile in 100 ml of ether. After standing at room temperature for 3 hr, the excess diazoethane was destroyed by addition of glacial acetic acid. The mixture was washed with saturated sodium bicarbonate solution, was dried and evaporated, at the end azeotropically with toluene. The residue was dissolved in 400 ml of toluene and the solution was heated to reflux for 11/2 hr in presence of 60 g of activated manganese dioxide. The water was separated in a Dean Stark trap. The MnO2 was removed by filtration over Celite and the filtrate was evaporated. The residue (14 g) was chromatographed over 300 g of silica gel using 10% (v/v) of ethyl acetate in methylene chloride. The homogenous fractions were combined and evaporated to yield an oily product.

reactant | diazoethane | [N+](=[N-])=CC | C2H4N2
reactant | 3-(2-benzoyl-4-chlorophenyl)-2-propenonitrile | 0.056 mol, 15 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)C=CC#N | C16H10ClNO
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 0.1 mol, 400 ml, 16.1 g | CCOCC | C4H10O
product | 4-(2-benzoyl-4-chlorophenyl)-3-cyano-5-methylpyrazole | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)C=1C(=NNC1C)C#N | C18H12ClN3O
